US09079882B2
4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile
A flask containing sodium ethoxide (0.64 mL of a 21 wt % solution in ethanol, 1.7 mmol) and N-[3-(1-methyl-piperidin-4-yl)-propyl]guanidine.HCl (200 mg, 0.85 mmol) in ethanol (2.45 mL) was aged for 15 minutes at room temperature. To the resultant mixture was then added 2-acetyl-3-ethoxy-acrylonitrile (148 mg, 1.06 mmol). The resultant mixture was warmed to 80° C. for 5 h, then cooled to room temperature and concentrated. The resultant residue was partitioned between 1 N NaOH and dichloromethane. After separation of the layers, the aqueous layer was extracted with additional dichloromethane (2×). The combined organic layers were dried over MgSO4, filtered, and concentrated to yield the title compound as a solid.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | N-[3-(1-methyl-piperidin-4-yl)-propyl]guanidine | CN1CCC(CC1)CCCNC(=N)N | C10H22N4
reactant | HCl | 0.85 mmol, 200 mg | Cl | ClH
reactant | 2-acetyl-3-ethoxy-acrylonitrile | 1.06 mmol, 148 mg | C(C)(=O)C(C#N)=COCC | C7H9NO2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 2.45 mL | C(C)O | C2H6O
product | 4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile | CC1=NC(=NC=C1C#N)NCCCC1CCN(CC1)C | C15H23N5
